US07288541B2
First, 3.18 g (79.4 mmol) of a 60% sodium hydride suspension in mineral oil was added in portions to a solution of 9.96 g (52.9 mmol) of 4-trifluoromethylacetophenone and 12.6 mL (158.76 mmol) of ethyl formate in 75 mL of anhydrous tetrahydrofuran at 0° C. The mixture was allowed to reach ambient temperature, at which an exothermic reaction occurred, which subsided in 5 min. After 1 h, the mixture was concentrated and the residue was triturated with diethyl ether to provide a tan solid in two crops. The solid was suspended in 1N hydrochloric acid and the resulting bright yellow solid was filtered and washed with water. The solid was dissolved in 150 mL of methanol and stirred at room temperature with 4.7 mL (96.9 mmol) of hydrazine hydrate for 3 h. Solvent was evaporated and the resulting solid was suspended in water, stirring for 18 h. The solid was filtered, washed with water, and dried under vacuum to provide 8.9 g (80%) of 3-[4-(trifluoromethyl)phenyl]-1H-pyrazole as a yellow solid. 1H-NMR (DMSO-d6): δ 13.05 (br s, 1H), 7.99 (d, J=8 Hz, 2H), 7.8 (br s, 1H), 7.71 (d, J=8 Hz, 2H), 6.81 (s, 1H); ES-LCMS m/z 213 (M+H).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-trifluoromethylacetophenone | 52.9 mmol, 9.96 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | ethyl formate | 158.76 mmol, 12.6 mL | C(=O)OCC | C3H6O2
reactant | hydrazine hydrate | 96.9 mmol, 4.7 mL | O.NN
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1N | Cl | ClH
product | 3-[4-(trifluoromethyl)phenyl]-1H-pyrazole | 8.9 g, 80% | FC(C1=CC=C(C=C1)C1=NNC=C1)(F)F | C10H7F3N2
